US08003806B2
(a) Methyl 3-(1,1′-biphenyl)-4-yl-3-(2,4-dinitroanilino)propanoate
To a solution of 2,4-dinitrofluorobenzene (247 mg, 847 μmol) in methanol (2 mL) was added N,N-diisopropylethylamine (147 μL, 844 μmol) and methyl 3-amino-3-(1,1′-biphenyl)-4-ylpropanoate (158 mg, 849 μmol). The solution was stirred at room temperature for 72 hours, then evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of petroleum ether and dichloromethane (1:1 to 0:1), to afford the title compound, [LCMS (Method B, Mobile Phase I) RT=3.81 min, MH+ 422].

reactant | 2,4-dinitrofluorobenzene | 847 μmol, 247 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | N,N-diisopropylethylamine | 844 μmol, 147 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 3-amino-3-(1,1′-biphenyl)-4-ylpropanoate | 849 μmol, 158 mg | NC(CC(=O)OC)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H17NO2
solvent | methanol | 2 mL | CO | CH4O
product | Methyl 3-(1,1′-biphenyl)-4-yl-3-(2,4-dinitroanilino)propanoate | C1(=CC=C(C=C1)C(CC(=O)OC)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C1=CC=CC=C1 | C22H19N3O6
